US08138187B2
4-Amino-3-iodopyridine (2,331 mg, 10.60 mmol), 4-(dimethylamino)-4-phenyl-1-(prop-1-ynyl)cyclohexanol (3,000 mg, 11.66 mmol, diastereomer mixture), lithium chloride (472 mg, 11.13 mmol) and sodium carbonate (3,369 mg, 31.79 mmol) were combined in dimethylformamide (absolute, 45 ml) in an argon atmosphere. The catalyst ([Pd(dppf)Cl2×CH2Cl2], 865 mg, 1.06 mmol) was then added. The red solution was heated at 100° C. (oil bath temperature) for 4 h. The black reaction mixture was cooled to room temperature and water (50 ml; stirring for 10 min), methylene chloride (50 ml) and saturated sodium chloride solution (100 ml for better phase separation) were added in succession. The phases were separated. The mixture was filtered over kieselguhr beforehand. The aqueous phase was extracted with methylene chloride (3×30 ml). The combined organic phases were washed with saturated sodium chloride solution (3×20 ml), dried with sodium sulfate and filtered and the volatile constituents were then removed completely in vacuo. The residue was absorbed on silica gel and separated by chromatography (silica gel [200 g]; chloroform/ethanol [9:1 1,000 ml, 5:1, 500 ml, 3:1, 500 ml, 1:1, 500 ml and 1:3, 500 ml]). 800 mg of 4-dimethylamino-1-(3-methyl-1H-pyrrolo[3,2-c]pyridin-2-yl)-4-phenylcyclohexanol (non-polar diastereoisomer) were isolated as a colourless solid and 765 mg of the polar diastereoisomer were isolated as a colourless solid.

reactant | 4-Amino-3-iodopyridine | 10.60 mmol, 2,331 mg | NC1=C(C=NC=C1)I | C5H5IN2
reactant | 4-(dimethylamino)-4-phenyl-1-(prop-1-ynyl)cyclohexanol | 11.66 mmol, 3,000 mg | CN(C1(CCC(CC1)(O)C#CC)C1=CC=CC=C1)C | C17H23NO
reactant | lithium chloride | 11.13 mmol, 472 mg | [Cl-].[Li+]
reactant | sodium carbonate | 31.79 mmol, 3,369 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethylformamide | 45 ml | CN(C=O)C | C3H7NO
catalyst | Pd(dppf)Cl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-dimethylamino-1-(3-methyl-1H-pyrrolo[3,2-c]pyridin-2-yl)-4-phenylcyclohexanol | 800 mg | CN(C1(CCC(CC1)(O)C1=C(C=2C=NC=CC2N1)C)C1=CC=CC=C1)C | C22H27N3O
